US08389720B2
N-(1-benzyl-3-methylpyrrolidin-3-yl)-N-[(1-methyl-2-oxo-1,2-dihydroquinolin-3-yl)methyl]cyclohexanecarboxamide
To 3-{[(1-benzyl-3-methylpyrrolidin-3-yl)amino]methyl}-1-methylquinolin-2(1H)-one (1846 mg, 5.11 mmol) in CH2Cl2 (25 ml) was added DIEA (1.338 ml, 7.66 mmol). Cyclohexane carbonyl chloride (0.757 ml, 5.62 mmol) was added and the reaction stirred for 2 hours. The reaction was quenched with MeOH then concentrated in vacuo. The resulting material was twice purified by silica gel chromatography on an Isco Companion (5-35% acetone/hexane for first run, 5-25% acetone/hexane for second run). 2.12 g, 88% over two steps.

reactant | 3-{[(1-benzyl-3-methylpyrrolidin-3-yl)amino]methyl}-1-methylquinolin-2(1H)-one | 5.11 mmol, 1846 mg | C(C1=CC=CC=C1)N1CC(CC1)(C)NCC=1C(N(C2=CC=CC=C2C1)C)=O | C23H27N3O
reactant | DIEA | 7.66 mmol, 1.338 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | Cyclohexane carbonyl chloride | 5.62 mmol, 0.757 ml | C1(CCCCC1)C(=O)Cl | C7H11ClO
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
product | N-(1-benzyl-3-methylpyrrolidin-3-yl)-N-[(1-methyl-2-oxo-1,2-dihydroquinolin-3-yl)methyl]cyclohexanecarboxamide | C(C1=CC=CC=C1)N1CC(CC1)(C)N(C(=O)C1CCCCC1)CC=1C(N(C2=CC=CC=C2C1)C)=O | C30H37N3O2
